US07595327B2
To a solution of 3-[(4-benzyloxy-benzenesulfonyl)-methyl-amino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid methyl ester (1.5 g, 3.51 mmol) in ethanol-CH2Cl2 (45 mL-5 mL) were added 10% Pd—C (1.12 g, 1.05 mmol) and 1,4-cycloexadiene (3.32 mL, 35.1 mmol) at room temperature. The mixture was stirred for 12 h and then filtered through celite. The organic solution was concentrated and the residue was purified by flash chromatography eluting with 40% ethyl acetate/hexanes to give 3-[(4-hydroxy-benzenesulfonyl)-methyl-amino]-bicyclo[2.2.1]heptane-2-carboxylic acid methyl ester (97% yield). Mp=163-164° C. (white solid).

reactant | 3-[(4-benzyloxy-benzenesulfonyl)-methyl-amino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid methyl ester | 3.51 mmol, 1.5 g | COC(=O)C1C2C=CC(C1N(C)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C2 | C23H25NO5S
solvent | ethanol CH2Cl2 | 45 mL-5 mL | C(C)O.C(Cl)Cl
catalyst | Pd—C | 1.05 mmol, 1.12 g | [Pd] | Pd
product | 3-[(4-hydroxy-benzenesulfonyl)-methyl-amino]-bicyclo[2.2.1]heptane-2-carboxylic acid methyl ester | 97% yield | COC(=O)C1C2CCC(C1N(C)S(=O)(=O)C1=CC=C(C=C1)O)C2 | C16H21NO5S
